US07399774B2
6-(1-Oxo-indan-5-yloxy)-nicotinamide
Using a method similar to Intermediate 1, using 5-hydroxy-1-indanone (2.44 g, 16.5 mmol), 6-chloronicotinamide (2.34 g, 15.0 mmol) and K2CO3 (3.11 g, 22.5 mmol) gives the title compound (1.90 g) as a yellow solid. Mass spectrum (ion spray): m/z=269 (M+1); 1HNMR (DMSO-d6): 8.63 (s, 1H), 8.30 (d, 1H), 8.06 (s, 1H), 7.68 (d, 1H), 7.52 (s, 1H), 7.33 (s, 1H), 7.19 (d, 1H), 7.17 (d, 1H), 3.07 (t, 2H), 2.64 (t, 2H).

reactant | 5-hydroxy-1-indanone | 16.5 mmol, 2.44 g | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | 6-chloronicotinamide | 15.0 mmol, 2.34 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 22.5 mmol, 3.11 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(1-Oxo-indan-5-yloxy)-nicotinamide | 1.90 g | O=C1CCC2=CC(=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C15H12N2O3
